US08536179B2
To a stirred solution of 4-(2-{1-isopropyl-4-[(6-methyl-2-oxo-4-propyl-1,2-dihydro-pyridin-3-ylmethyl)-carbamoyl]-1H-indol-6-yloxy}-ethyl)-piperazine-1-carboxylic acid tert-butyl ester (280 mg, 0.472 mmol; prepared following the procedure of Example xx) in dichloromethane (15 mL) was added TFA (1.5 mL) at room temperature and then stirred for 3 h at room temperature. Reaction mixture was concentrated under reduced pressure, diluted with water (20 mL) and washed the resulting aqueous layer with diethyl ether (2×15 mL). The aqueous layer was basified with (pH ˜8) with saturated aqueous NaHCO3 solution and extracted with dichloromethane (3×20 mL). The combined organic layer was washed with brine solution (2×25 mL) and concentrated. Purification by preparative HPLC afforded 1-isopropyl-6-(2-piperazin-1-yl-ethoxy)-1H-indole-4-carboxylic acid (6-methyl-2-oxo-4-propyl-1,2-dihydro-pyridin-3-ylmethyl)-amide (48 mg, 20%) as an off white solid. 1H NMR (400 MHz, DMSO-d6): δ 0.93 (t, 3H), 1.42 (d, 6H, J=6.8 Hz), 1.57 (m, 2H), 2.14 (s, 3H), 2.45-2.2 (m, 4H), 2.68 (t, 2H), 2.75 (t, 4H), 4.15-4.19 (m, 2H), 4.35 (d, 2H), 4.78-4.72 (m, 1H), 5.91 (s, 1H), 6.73 (d, 1H), 7.03 (s, 1H), 7.24 (s, 1H), 7.42 (d, 1H), 8.12 (t, 1H), 11.58 (bs, 1H). LCMS (ES+): m/z=494.57 [M+H].

reactant | 4-(2-{1-isopropyl-4-[(6-methyl-2-oxo-4-propyl-1,2-dihydro-pyridin-3-ylmethyl)-carbamoyl]-1H-indol-6-yloxy}-ethyl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)CCOC1=CC(=C2C=CN(C2=C1)C(C)C)C(NCC=1C(NC(=CC1CCC)C)=O)=O | C33H47N5O5
reactant | TFA | 1.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 1-isopropyl-6-(2-piperazin-1-yl-ethoxy)-1H-indole-4-carboxylic acid (6-methyl-2-oxo-4-propyl-1,2-dihydro-pyridin-3-ylmethyl)-amide | 48 mg, 20% | CC1=CC(=C(C(N1)=O)CNC(=O)C=1C=2C=CN(C2C=C(C1)OCCN1CCNCC1)C(C)C)CCC | C28H39N5O3
